US06225495B1
To a mixture solution of 1.78 g of (2,3,5,6-tetrafluoro-4-methylphenyl)methanol, 0.87 g of pyridine and 20 ml of tetrahydrofuran, 2.06 g of (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylic chloride was added under ice-cooling and the mixture was stirred for 8 hours at room temperature. The reaction mixture was poured into about 100 ml of ice-water and extracted with each 100 ml of ethyl acetate twice. The combined ethyl acetate was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product, which was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=20/1) to give 2.75 g of (2,3,5,6-tetrafluoro-4-methylphenyl)methyl(1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate (yield 87%).

reactant | (2,3,5,6-tetrafluoro-4-methylphenyl)methanol | 1.78 g | FC1=C(C(=C(C(=C1F)C)F)F)CO | C8H6F4O
reactant | pyridine | 0.87 g | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylic chloride | 2.06 g | CC1([C@@H]([C@H]1C=C(C)C)C(=O)Cl)C | C10H15ClO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (2,3,5,6-tetrafluoro-4-methylphenyl)methyl(1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate | 2.75 g, yield 87% | CC1([C@@H]([C@H]1C=C(C)C)C(=O)OCC1=C(C(=C(C(=C1F)F)C)F)F)C | C18H20F4O2
